US05025025
To a solution of 42.59 g (0.11 mole) of diethyl [4-azidobutyl][3-(3-pyridyl)-propyl]-malonate in 270 mL THF and 3.1 mL water is added 29 g (0.11 mole) of triphenyl phosphine and the solution is stirred well for 48 hours. Solvent is evaporated and the residue subjected to flash chromatography to give diethyl [4-aminobutyl][3-(3-pyridyl)- propyl]malonate as an oil.

reactant | diethyl [4-azidobutyl][3-(3-pyridyl)-propyl]-malonate | 0.11 mole, 42.59 g | N(=[N+]=[N-])CCCCC(C(=O)OCC)(C(=O)OCC)CCCC=1C=NC=CC1 | C19H28N4O4
reactant | triphenyl phosphine | 0.11 mole, 29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 270 mL | C1CCOC1 | C4H8O
solvent | water | 3.1 mL | O | H2O
product | diethyl [4-aminobutyl][3-(3-pyridyl)- propyl]malonate | NCCCCC(C(=O)OCC)(C(=O)OCC)CCCC=1C=NC=CC1 | C19H30N2O4
